US07728183B2
A 100 mL Hastelloy shaker tube was loaded with 26.5 g (0.227 mole) chlorosulfuric acid, cooled in liquid nitrogen, evacuated and loaded with 30 g (0.225 mole) of 1,1,3,3,3-pentafluoropropene. The reaction vessel was allowed to warm and kept on a shaker at 40° C. at autogenous pressure for 6 hours. The pressure tube was unloaded, and the reaction mixture was added drop by drop into the flask containing 60 ml of ethanol at −10° C. over a 15 minute period. The reaction mixture was stirred overnight at 20° C. and then was poured into 200 ml of ice water. The organic layer was separated, washed with sodium bicarbonate, water, and dried under MgSO4. Distillation gave 31 g of CF3CH2COOEt (87%), bp 108-109° C.

reactant | chlorosulfuric acid | 0.227 mole, 26.5 g | S(O)(=O)(=O)Cl | ClHO3S
reactant | 1,1,3,3,3-pentafluoropropene | 0.225 mole, 30 g | FC(=CC(F)(F)F)F | C3HF5
reactant | ethanol | 60 ml | C(C)O | C2H6O
product | CF3CH2COOEt | 31 g, 87% | C(F)(F)(F)CC(=O)OCC | C5H7F3O2
